US08685959B2
Synthesis of (1R)-1-(4-chloro-2-(trifluoromethyl)phenyl)ethanamine (see FIG. 6)
To a solution of (S)-N-((R)-1 (4-chloro-2-(trifluoromethyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide (14.6 g, 44.5 mmol) in methanol (25 mL) was added a solution of hydrochloric acid in p-dioxane (4.0 M in p-dioxane, 22.3 mL, 89.1 mmol), and the reaction was stirred at room temperature for 30 min. Diethyl ether was then added (400 mL) and the slurry was stirred for 10 min. The solid was collected by filtration, and washed with diethyl ether (2×200 mL). The solid was then dissolved in 5 M aqueous sodium hydroxide solution, and extracted with dichloromethane (2×100 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was used without further purification (7.8 g, 34.9 mmol, 79%, >96% ee, determined by Mosher's method).

reactant | (S)-N-((R)-1 (4-chloro-2-(trifluoromethyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide | 44.5 mmol, 14.6 g | ClC1=CC(=C(C=C1)[C@@H](C)N[S@@](=O)C(C)(C)C)C(F)(F)F | C13H17ClF3NOS
reactant | hydrochloric acid | Cl | ClH
reactant | p-dioxane | 89.1 mmol, 4.0 M, 22.3 mL | O1CCOCC1 | C4H8O2
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 25 mL | CO | CH4O
product | (1R)-1-(4-chloro-2-(trifluoromethyl)phenyl)ethanamine | ClC1=CC(=C(C=C1)[C@@H](C)N)C(F)(F)F | C9H9ClF3N
